US08686026B2
To the crude product solution (1R,4R)-1,4-bis(4-nitrophenyl)butane-1,4-diyl dimethanesulfonate (7.35 g, 13.39 mmol) was added 4-tert-butylaniline (13.4 g, 90 mmol) at 23° C. over 1 minute. The reaction was heated to 65° C. for 2 h. After completion, the reaction mixture was cooled to 23° C. and diluted with 2-methyltetrahydrofuran (100 mL) and 1 M HCl (150 mL). After partitioning the phases, the organic phase was treated with 1 M HCl (140 mL), 2-methyltetrahydrofuran (50 mL), and 25 wt % aq. NaCl (100 mL), and the phases were partitioned. The organic phase was washed with 25 wt % aq. NaCl (50 mL), dried over MgSO4, filtered, and concentrated in vacuo to approximately 20 mL. Heptane (30 mL) and additional 2-methyltetrahydrofuran were added in order to induce crystallization. The slurry was concentrated further, and additional heptane (40 mL) was slowly added and the slurry was filtered, washing with 2-methyltetrahydrofuran:heptane (1:4, 20 mL). The solids were suspended in MeOH (46 mL) for 3 h, filtered, and the wet solid was washed with additional MeOH (18 mL). The solid was dried at 45° C. in a vacuum oven for 16 h to provide (2S,5S)-1-(4-tert-butylphenyl)-2,5-bis(4-nitrophenyl)pyrrolidine (3.08 g, 51% 2-step yield).

reactant | (1R,4R)-1,4-bis(4-nitrophenyl)butane-1,4-diyl dimethanesulfonate | 13.39 mmol, 7.35 g | CS(=O)(=O)O[C@H](CC[C@H](C1=CC=C(C=C1)[N+](=O)[O-])OS(=O)(=O)C)C1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O10S2
reactant | 4-tert-butylaniline | 90 mmol, 13.4 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | 2-methyltetrahydrofuran | 100 mL | CC1OCCC1 | C5H10O
solvent | HCl | 1 M, 150 mL | Cl | ClH
product | (2S,5S)-1-(4-tert-butylphenyl)-2,5-bis(4-nitrophenyl)pyrrolidine | 3.08 g, 51% | C(C)(C)(C)C1=CC=C(C=C1)N1[C@@H](CC[C@H]1C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C26H27N3O4
